US05523410
N,N-Dibenzyl-L-phenylalanine hydrochloride (50 g) was dissolved in methylene chloride (500 ml), and an aqueous solution of sodium hydroxide (sodium hydroxide 6 g, water 500 ml) was added thereto. After stirring the mixture for 30 minutes, it was partitioned, and the organic layer was dried over magnesium sulfate and concentrated under reduced pressure to give N,N-dibenzyl-L-phenylalanine as an oily substance.

reactant | N,N-Dibenzyl-L-phenylalanine hydrochloride | 50 g | Cl.C(C1=CC=CC=C1)N([C@@H](CC1=CC=CC=C1)C(=O)O)CC1=CC=CC=C1
reactant | sodium hydroxide | 500 ml, 6 g | [OH-].[Na+]
solvent | methylene chloride | 500 ml | C(Cl)Cl | CH2Cl2
product | N,N-dibenzyl-L-phenylalanine | C(C1=CC=CC=C1)N([C@@H](CC1=CC=CC=C1)C(=O)O)CC1=CC=CC=C1 | C23H23NO2
